US05403675
2,5-Dichloro-4'-phenoxybenzophenone
To a 22 L open-mouth round bottom flask fitted with a three-necked flange head, a mechanical stirrer, a nitrogen inlet and an outlet connected to a HCl scrubbing tower, is added 2,5-dichlorobenzoic chloride (4500 g, 21.5 mol) and phenyl ether (5489 g, 32.3 mol). The solution is cooled in ice to 5° C. under stirring, and aluminum chloride (3700 g, 27.8 mol) is added slowly, over a period of about 10 minutes. The temperature of the reaction mixture is about 35° C. after the addition. The mixture is then stirred for about 30 minutes and poured into about 20 gallons of ice water. The large reddish mass is dissolved by adding about 12 L of methylene chloride and stirring. The organic layer is separated and the aqueous layer is extracted with some methylene chloride. After methylene chloride is removed from the combined organic layer by distillation, the residue is recrystallized twice from cyclohexane (2×10 L), washed with cooled hexane, air dried, and then vacuum dried, to afford 5387 g monomer (73%). The mother liquor is kept for later recovery of remaining product.

reactant | HCl | Cl | ClH
reactant | 2,5-dichlorobenzoic chloride | 21.5 mol, 4500 g | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
reactant | phenyl ether | 32.3 mol, 5489 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | aluminum chloride | 27.8 mol, 3700 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | about 12 L | C(Cl)Cl | CH2Cl2
product | 2,5-Dichloro-4'-phenoxybenzophenone | 5387 g, 73% | ClC1=C(C(=O)C2=CC=C(C=C2)OC2=CC=CC=C2)C=C(C=C1)Cl | C19H12Cl2O2
